US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-5-(4-fluorophenyl)-4-methyl-6-oxo-3,6-dihydropyridine-1(2H)-carboxamide
To a solution of bis(trichloromethyl) carbonate (127 mg, 0.43 mmol) in tetrahydrofuran (4 mL) were slowly added a solution of 3-(4-fluorophenyl)-4-methyl-5,6-dihydropyridin-2(1H)-one (240 mg, 1.2 mmol) and triethylamine (240 mg, 2.3 mmol) in tetrahydrofuran (2 mL) under ice-cooling, and the mixture was stirred at 0° C. for 40 min and at room temperature for 15 min. A solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (250 mg, 0.78 mmol) in tetrahydrofuran (4 mL) and triethylamine (79 mg, 0.78 mmol) were added to the mixture, and the mixture was stirred at room temperature for 2 hr. Ethyl acetate/tetrahydrofuran and saturated brine were added to the mixture, and the aqueous layer was extracted 3 times with ethyl acetate/tetrahydrofuran. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=40/60→90/10) to give the title compound (170 mg, 39%) as a white solid.

reactant | bis(trichloromethyl) carbonate | 0.43 mmol, 127 mg | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 3-(4-fluorophenyl)-4-methyl-5,6-dihydropyridin-2(1H)-one | 1.2 mmol, 240 mg | FC1=CC=C(C=C1)C=1C(NCCC1C)=O | C12H12FNO
reactant | triethylamine | 2.3 mmol, 240 mg | C(C)N(CC)CC | C6H15N
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.78 mmol, 250 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | triethylamine | 0.78 mmol, 79 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-5-(4-fluorophenyl)-4-methyl-6-oxo-3,6-dihydropyridine-1(2H)-carboxamide | 170 mg, 39% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)N2CCC(=C(C2=O)C2=CC=C(C=C2)F)C)F)C1 | C30H25F2N5O4
